US04073902
If, in the above process, 0.09 g of D-α-tert.-butoxycarbonylamino-α-(1,4-cyclohexadienyl)-acetic acid, 0.038 ml of N-methyl-morpholine and 0.052 ml of chloroformic acid isobutyl ester are used and the mixture is stirred for 30 minutes at -15° C under a nitrogen atmosphere, then treated with 0.125 g of 7β-amino-3-methoxy-3-cephem-4-carboxylic acid diphenylmethyl ester and 0.035 ml of N-methyl-morpholine, stirred for 30 minutes at -10° C and for 30 minutes at 0° C and worked up as described above, a crude product is obtained, which is purified by means of preparative layer chromatography (silica gel; system: diethyl ether; identification with ultraviolet light, λ = 254 μ). At Rf~0.51, 7β- D-α-tert.-butoxycarbonylamino-(1,4-cyclohexadienyl)-acetylamino!-3-methoxy-2-cephem-4α-carboxylic acid diphenylmethyl ester is thus obtained, melting point = 153°-154° C after crystallisation from a mixture of methylene chloride and pentane; thin layer chromatogram (silica gel; identification with iodine): Rf~0.51 (system: diethyl ether); α!D20 = +176° ± 1° (c = 0.541 in chloroform); ultraviolet absorption spectrum (in 95% strength aqueous ethanol): λmax = 257 mμ (ε = 3,600); and infrared absorption spectrum (in methylene chloride): characteristic bands at 2.96 μ, 5.64 μ, 5.76 μ, 5.92 μ, 6.18 μ and 6.75 μ; whilst at Rf~0.39 7β- D-α-tert.-butoxycarbonyl-amino-α-(1,4-cyclohexadienyl)-acetylamino!-3-methoxy-3-cephem-4-carboxylic acid diphenylmethyl ester is obtained, which is identical with the product obtainable according to the process described above.

reactant | N-methyl-morpholine | 0.038 ml | CN1CCOCC1 | C5H11NO
reactant | chloroformic acid isobutyl ester | 0.052 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | 7β-amino-3-methoxy-3-cephem-4-carboxylic acid diphenylmethyl ester | 0.125 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2N)=O)OC | C21H20N2O4S
reactant | N-methyl-morpholine | 0.035 ml | CN1CCOCC1 | C5H11NO
product | 3-methoxy-2-cephem-4α-carboxylic acid diphenylmethyl ester | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)[C@H]1C(=CS[C@H]2N1C(C2)=O)OC | C21H19NO4S
